US06638972B2
Preparation of Ethyl 7-Hydroxychroman-2-carboxylate
A solution of ethyl 7-hydroxy-4-oxo-4H-1-benzopyran-2-carboxylate (19.0 g, 0.081 mol) in acetic acid is hydrogenated over 10% Pd/C (4.5 g) at 50 psi H2 for 16 hr at ambient temperatures. The catalyst is removed by filtration and the filtrate is concentrated in vacuo to give a residue. The residue is dissolved in EtOAc, washed with saturated NaHCO3, dried over Na2SO4 and concentrated in vacuo to give a solid residue. Crystallization of the solid from CCl4 affords the title compound as an off-white solid, 17.2 g (96% yield), mp 78-80° C., identified by NMR and mass spectral analyses.

reactant | ethyl 7-hydroxy-4-oxo-4H-1-benzopyran-2-carboxylate | 0.081 mol, 19.0 g | OC1=CC2=C(C(C=C(O2)C(=O)OCC)=O)C=C1 | C12H10O5
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 4.5 g | [Pd] | Pd
product | Ethyl 7-Hydroxychroman-2-carboxylate | 96% yield | OC1=CC=C2CCC(OC2=C1)C(=O)OCC | C12H14O4
